US07282501B2
Step B: 3-{4-[3-(Biphenyl-4-yloxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid
Trifluoroacetic acid (0.032 mL, 0.42 mmol) was added to a solution of 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid tert-butyl ester (50 mg, 0.085 mmol) in CH2Cl2 (5 mL) at room temperature. The reaction mixture was stirred overnight and concentrated under vacuum to give the title compound (41 mg, 90%). 1H-NMR (200 MHz, CDCl3): δ 9.4 (br s, 1H), 7.58-7.49 (m, 4H), 7.42 (m, 2H), 7.32 (m, 1H), 7.13 (d, 1H, J=8.3), 7.00-6.93 (m, 3H), 6.84 (dd, 1H, J=7.8, 2.7), 5.11 (s, 2H), 4.76 (br s, 1H), 4.17 (m, 4H), 3.57-3.35 (m, 1H), 2.95 (t, 2H, J=7.8), 2.63 (t, 2H, J=7.8), 2.27 (qn, 2H, J=6.0), 1.99-1.05 (m, 10H).

reactant | Trifluoroacetic acid | 0.42 mmol, 0.032 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid tert-butyl ester | 0.085 mmol, 50 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)COC(NC1CCCCC1)=O)=O | C36H45NO6
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[3-(Biphenyl-4-yloxy)-propoxy]-2-cyclohexylcarbamoyloxymethyl-phenyl}-propionic acid | 41 mg, 90% | C1(=CC=C(C=C1)OCCCOC1=CC(=C(C=C1)CCC(=O)O)COC(NC1CCCCC1)=O)C1=CC=CC=C1 | C32H37NO6
